US05482967
To a solution of 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester (15.0 g) in acetic acid (150 ml) was added 10% palladium-carbon (3.0 g), followed by stirring at 80° C. in a hydrogen atmosphere (4 to 5 atm) for 4.5 hours. After the catalyst was filtered off, the filtrate was distilled to remove the solvent, followed by treatment of the residue with isopropyl ether, to yield 3,4-dihydro-6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester as colorless crystals (12.5 g).

reactant | 6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester | 15.0 g | C(C)OC(=O)C=1C(OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C)=O | C19H16O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 3.0 g | [C].[Pd]
product | 3,4-dihydro-6-methyl-2-oxo-4-phenyl-2H-1-benzopyran-3-carboxylic acid ethyl ester | 12.5 g | C(C)OC(=O)C1C(OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C)=O | C19H18O4
